US09126998B2
rac-tert-Butyl 2-{[({8-[(2,6-difluorobenzyl)oxy]-2,6-dimethylimidazo[1,2-a]pyridin-3-yl}-carbonyl)amino]methyl}-3,4-dihydroquinoline-1(2H)-carboxylate
120 mg (0.36 mmol) of 8-[(2,6-difluorobenzyl)oxy]-2,6-dimethylimidazo[1,2-a]pyridine-3-carboxylic acid Example 21A, 139 mg (0.43 mmol) of TBTU and 0.20 ml (1.81 mmol) of 4-methylmorpholine in DMF (2.3 ml) were stirred at RT for 10 min, 119 mg (0.40 mmol) of rac-tert-butyl 2-(aminomethyl)-3,4-dihydroquinoline-1(2H)-carboxylate hydrochloride were added and the reaction mixture was stirred at RT overnight. Water was added, and the mixture was stirred at RT for 30 min. The solid formed was filtered off, washed with water and dried under high vacuum. This gave 182 mg (85% of theory, purity 98%) of the target compound.

reactant | 8-[(2,6-difluorobenzyl)oxy]-2,6-dimethylimidazo[1,2-a]pyridine-3-carboxylic acid | 0.36 mmol, 120 mg | FC1=C(COC=2C=3N(C=C(C2)C)C(=C(N3)C)C(=O)O)C(=CC=C1)F | C17H14F2N2O3
reactant | TBTU | 0.43 mmol, 139 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 4-methylmorpholine | 1.81 mmol, 0.20 ml | CN1CCOCC1 | C5H11NO
reactant | rac-tert-butyl 2-(aminomethyl)-3,4-dihydroquinoline-1(2H)-carboxylate hydrochloride | 0.40 mmol, 119 mg | Cl.NCC1N(C2=CC=CC=C2CC1)C(=O)OC(C)(C)C
solvent | DMF | 2.3 ml | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | rac-tert-Butyl 2-{[({8-[(2,6-difluorobenzyl)oxy]-2,6-dimethylimidazo[1,2-a]pyridin-3-yl}-carbonyl)amino]methyl}-3,4-dihydroquinoline-1(2H)-carboxylate | FC1=C(COC=2C=3N(C=C(C2)C)C(=C(N3)C)C(=O)NCC3N(C2=CC=CC=C2CC3)C(=O)OC(C)(C)C)C(=CC=C1)F | C32H34F2N4O4
